US08530504B2
6-Methylpyrazolo[5,1-b][1,3]thiazole-7-amine
A mixture of 1-(6-methylpyrazolo[5,1-b][1,3]thiazol-7-yl)ethanone (1.02 g, 5.66 mmol) and a 5N aqueous solution of hydrochloric acid (23.8 mL) was cooled to 0° C., and an aqueous (1.5 mL) solution of sodium nitrite (781 mg, 11.3 mmol) was added. This reaction mixture was stirred at 0° C. for two hours, then, warmed to room temperature, and further stirred at room temperature over one day and night. A 5N aqueous solution of sodium hydroxide was added to the mixture so that the solution became basic, and a produced blue solid was filtered and washed with a small amount of water. The obtained blue solid was dissolved in a 2N aqueous solution of hydrochloric acid (22 mL), zinc powder (370 mg, 5.66 mmol) was added thereto, and the mixture was stirred at room temperature for 15 minutes. To the mixture, zinc powder (370 mg, 5.66 mmol) was added again, and the mixture was stirred at room temperature for one hour. The insoluble matters were filtered off and then a 5N aqueous solution of sodium hydroxide was added to the filtrate at 0° C. for neutralization. A substance of interest was extracted with ethyl acetate, and the organic layer washed with brine, and dried over magnesium sulfate. The mixture was filtered to yield a filtrate, and the solvent was distilled off under reduced pressure, and the obtained solid was dried to obtain 605.8 mg (3.95 mmol) of the title compound.

reactant | 1-(6-methylpyrazolo[5,1-b][1,3]thiazol-7-yl)ethanone | 5.66 mmol, 1.02 g | CC1=NN2C(SC=C2)=C1C(C)=O | C8H8N2OS
reactant | sodium nitrite | 11.3 mmol, 781 mg | N(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 22 mL | Cl | ClH
catalyst | zinc | 5.66 mmol, 370 mg | [Zn] | Zn
catalyst | zinc | 5.66 mmol, 370 mg | [Zn] | Zn
solvent | hydrochloric acid | 23.8 mL | Cl | ClH
product | 6-Methylpyrazolo[5,1-b][1,3]thiazole-7-amine | 3.95 mmol, 605.8 mg | CC1=NN2C(SC=C2)=C1N | C6H7N3S
